US06518267B1
a) Ethyl 5-Hydroxybenzofuran-2-carboxylate
To a mixture of aluminum chloride (6.3 g, 47.7 mmol) and ethanethiol (4.5 g, 72.9 mmol) in dichloromethane (81 mL) at 0° C. was added ethyl 5-methoxybenzofuran-2-carboxylate (3.0 g, 13.6 mmol). After stirring for 16 h at room temperature, the mixture was poured into water, acidified with 3N HCl and extracted with dichloromethane (2x). The organic layers were combined, washed with brine, collected, dried (MgSO4), filtered and concentrated. The residue was purified by column chromatography (silica gel, ethyl acetate/hexane) to yield the title compound as a white solid (2.16 g, 77%). 1H NMR (400 MHz, CDCl3) δ 7.45 (m, 2H), 7.08 (m, 1H), 7.02 (m, 1H), 5.35 (s b, 1H), 4.44 (q, 2H), 1.42 (t, 3H).

reactant | aluminum chloride | 47.7 mmol, 6.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanethiol | 72.9 mmol, 4.5 g | C(C)S | C2H6S
reactant | ethyl 5-methoxybenzofuran-2-carboxylate | 13.6 mmol, 3.0 g | COC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C12H12O4
reactant | HCl | 3N | Cl | ClH
solvent | dichloromethane | 81 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 5-Hydroxybenzofuran-2-carboxylate | 2.16 g, 77% | OC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H10O4
